US08865894B2
Step B1: 5-Bromo-4-trifluoromethyl-pyrimidin-2-ylamine
To a solution of 2-amino-4-trifluoromethylpyrimidine (25 g, 0.15 mol) in CH3CN (800 mL) was added dropwise (over 2.5 hours) NBS (34.8 g, 0.195 mol) dissolved in 200 mL of CH3CN in the dark. The mixture was stirred 4.5 h at RT in the dark and then the solvent was evaporated. The residue was dissolved in EtOAc and H2O and the binary mixture was transferred into a separating funnel. The aqueous layer was separated and extracted with EtOAc. The organic layers were washed with H2O and brine, dried with Na2SO4, filtered and evaporated. The residue was purified by chromatography on silica gel using a gradient of hexane/EtOAc 9:1 to 3:2. The combined pure fractions were evaporated and the residue suspended in 40 mL hexane, stirred for 10 min., filtered and washed with 2×20 mL of hexane to give the title product as a beige solid (31.2 g, 85%). tR: 0.82 min (LC-MS 1).

reactant | 2-amino-4-trifluoromethylpyrimidine | 0.15 mol, 25 g | NC1=NC=CC(=N1)C(F)(F)F | C5H4F3N3
reactant | NBS | 0.195 mol, 34.8 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CH3CN | 800 mL | CC#N | C2H3N
solvent | CH3CN | 200 mL | CC#N | C2H3N
product | 5-Bromo-4-trifluoromethyl-pyrimidin-2-ylamine | 31.2 g, 85% | BrC=1C(=NC(=NC1)N)C(F)(F)F | C5H3BrF3N3
